Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Diovan / niacin / Statins-Hmg-Coa Reductase Inhibitors
 
Attending: ___
 
Chief Complaint:
Dizziness and hyperglycemia

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with DM2 and HTN here with multiple falls over the past 
month, many of which have been preceded by lightheadness.  
Following two prior mechanical falls on ___ and ___, on 
___ she reported an episode when she was standing at the 
kitchen table when she suddenly "blacked out", fell, and hit her 
head.  She denied antecedent chest pain, palpitations, or 
shortness of breath.  

Patient reports frequent episodes of dizziness over past several 
weeks, worst early in the day and while walking, but not 
exacerbated by positional change.  As with the prior fall, she 
endorses no cardiac symptoms associated with these episodes 
except for presyncope prior.

Patient's daughter also reports that the patient has had 
elevated blood sugars for the past several weeks (though 
patient's records reflect otherwise), peaking this AM at 400+. 
Of note, patient received steroid injection in her hip on ___ 
due to arthritis one day prior to admission. Due to concern for 
elevated BG and several weeks of dizziness with one syncopal 
episode, daughter brought the patient to the ED for further 
evaluation.

Patient denies any recent changes in medications although she 
has had hyperglycemia. Denies any fevers, chills, sweats. She 
denies any abdominal pain. No nausea/chronic/diarrhea. She 
denies any back pain. She denies any focal weakness or numbness. 
She does have pain with movement of her left hip, but states 
this is actually improving.

In the ED, initial vitals were: T99, HR109, BP 161/51, RR18, 
100%RA. Noted to be A and O x3, complaining of chronic left hip 
pain and non-productive cough, but denying other symptoms. Able 
to ambulate without lightheadedness. UA notable for hazy urine 
with 47 WBC, glucose 300, moderate leuk, and few bacteria. Other 
labs notable for creatinine 1.5 (baseline 1.57 at ___, per 
Atrius records), BUN 42, glucose 329, WBC 17.9 with 86.9 PMNs, 
Hct 35.5.  Given 500cc IVF and Cipro 250mg PO to treat presumed 
UTI.  She was admitted to medicine for further workup.

On the floor, patient's vitals were: T97.8 HR79 BP180/79 RR20 
100RA
She denied any symptoms of dizziness, chest pain, palpitations. 
 
Past Medical History:
Asthma with COPD 
DM type II uncontrolled with renal manifestation 
HTN 
Gout 
Hypothyroidism
Seasonal allergies 
Hyperlipidemia 
CKD (chronic kidney disease), stage III 
Osteopenia 
Anemia 
Osteoarthritis of right hip 

 
Social History:
___
Family History:
Patient and daughter deny ___ of cardiac disease, arrhythmia, or 
sudden death.
Mother died of breast cancer in ___. Multiple family members 
with diabetes.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: T97.8 HR79 BP180/79 RR20 100RA
General: Alert, attentive, pleasant, in NAD
HEENT: PERRLA, pharynx without exudate or erythema   
Neck: JVD at 7cm, no LAD  
CV: RRR, S1/S2, no m/r/g 
Lungs: CTAB, no wheezes or crackles
Abdomen: Soft, obese, NT, ND, +BS, no organomegaly
GU: no foley, no suprapubic tenderness
Ext: warm, well-perfused, cap refill < 2 sec, radial pulses 
palpable bilaterally  
Neuro: A and Ox3, CN ___ intact, moving all limbs spontaneously

DISCHARGE PHYSICAL EXAM:
Vitals: T97.3 HR65 BP156/89 RR20 100RA
General: Alert, attentive, pleasant, in NAD
HEENT: PERRLA, pharynx without exudate or erythema   
Neck: No LAD  
CV: RRR, S1/S2, no m/r/g 
Lungs: CTAB, no wheezes or crackles
Abdomen: Soft, obese, NT, ND, +BS, no organomegaly
GU: no foley, no suprapubic tenderness
Ext: warm, well-perfused, cap refill < 2 sec, radial pulses 
palpable bilaterally  
Neuro: A and Ox3, moving all limbs spontaneously

 
Pertinent Results:
ADMISSION LABS:
___ 04:10PM BLOOD WBC-17.9* RBC-3.77* Hgb-11.4* Hct-35.5* 
MCV-94 MCH-30.2 MCHC-32.0 RDW-14.8 Plt ___
___ 04:10PM BLOOD Neuts-86.9* Lymphs-8.3* Monos-4.1 Eos-0.7 
Baso-0
___ 04:49PM BLOOD ___ PTT-21.6* ___
___ 04:10PM BLOOD Glucose-329* UreaN-42* Creat-1.5* Na-139 
K-4.8 Cl-104 HCO3-21* AnGap-19
___ 04:47PM BLOOD ___ pO2-57* pCO2-39 pH-7.42 
calTCO2-26 Base XS-0 Intubat-NOT INTUBA

URINE:
___ 06:30PM URINE Color-Straw Appear-Hazy Sp ___
___ 06:30PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-300 Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-MOD
___ 06:30PM URINE RBC-<1 WBC-47* Bacteri-FEW Yeast-NONE 
Epi-1

___ URINE CULTURE PRELIMINARY ESCHERICHIA COLI.    >100,000 
ORGANISMS/ML.

___ CT HEAD WITHOUT CONTRAST
FINDINGS:  There is no evidence of acute intracranial 
hemorrhage, edema, mass effect, or infarction.  Prominent 
ventricles and sulci suggest age related involutional changes or 
atrophy.  Periventricular white matter hypodensities are 
consistent with chronic small vessel ischemic disease.  The 
basal cisterns appear patent and there is preservation of 
gray-white matter differentiation.  
No fracture is identified.  Visualized paranasal sinuses, 
mastoid air cells, and middle ear cavities are clear.  The 
globes are intact.   
IMPRESSION:  No acute intracranial process.   

___ CXR
FINDINGS:  Frontal and lateral views of the chest were obtained. 
 The cardiac silhouette is top normal.  Mediastinal contours are 
unremarkable.  No focal consolidation, pleural effusion, or 
evidence of pneumothorax is seen.  Slight prominence of the hila 
most likely relates to pulmonary vascular engorgement.  There 
are degenerative changes along the spine.  
IMPRESSION:  Central pulmonary vascular engorgement. 

___ & ___ ECG
Normal sinus rhythm. Right axis deviation. Right bundle branch 
block.

___ Transthoracic Echo
Mild symmetric left ventricular hypertrophy with preserved 
regional and global biventricular systolic function. No 
pathologic flow or structural cardiac cause of syncope 
identified.

DISCHARGE LABS:
___ 06:15AM BLOOD WBC-13.1* RBC-3.85* Hgb-11.5* Hct-36.2 
MCV-94 MCH-29.8 MCHC-31.7 RDW-14.8 Plt ___
___ 06:15AM BLOOD Glucose-143* UreaN-35* Creat-1.4* Na-143 
K-4.2 Cl-105 HCO3-26 AnGap-16
___ 06:15AM BLOOD Calcium-10.0 Phos-3.4 Mg-1.___ with DM2, HTN, hypothyroidism with history of multiple 
recent falls-mechanical and syncopal-, who presents with several 
weeks of dizziness with walking and elevated blood sugars, and 
was discovered to have a UTI.

ACUTE ISSUES
#Syncope and presyncope- Patient endorses dizziness worse early 
in morning and worse with walking.  One prior syncopal episode 
on ___ with loss of consciousness and fall to ground with head 
strike. No evidence of cardiopulmonary etiology, euvolemic on 
exam, no symptoms while in-house.  TTE showed "Mild symmetric 
left ventricular hypertrophy with preserved regional and global 
biventricular systolic function. No pathologic flow or 
structural cardiac cause of syncope identified." EF>60%. Patient 
was not found to be orthostatic.  Telemetry showed normal sinus 
rhythm.  Etiology may be related to recent hyperglycemia in 
setting of steroid injection for hip vs urinary tract infection. 


#UTI- Patient had UA suggestive of UTI. Urine culture (prelim) 
grew E coli >100,000 organisms/mL. She denied any dysuria or 
suprapubic tenderness, although she did have presyncope. She 
received ciprofloxacin 250mg x1 in ED. Nitrofurantoin was 
contraindicated given her renal failure. She received one dose 
of ceftriaxone, before this was switched to cefpodoxime, to 
complete 7-day total course for complicated UTI (last dose 
___.

#Hypertension- HCTZ was discontinued given concern for 
hypovolemia. Lisinopril was increased from 10mg to 20mg daily. 
Felodipine was continued. Patient was intermittently 
hypertensive during hospital course, but blood pressure improved 
by time of discharge. There were no hypotensive measurements 
recorded.

CHRONIC ISSUES:
#Asthma- continue home Albuterol Inhaler PRN 
#Diabetes- Held glimepiride and started ISS. Resumed glimepiride 
on discharge.
#Gout- continue home Allopurinol
#Hypothyroid- continue home Levothyroxine Sodium 
#Allergies- continue home Fluticasone nasal

# CODE: Full code, confirmed
# CONTACT: ___ (daughter) ___  

### TRANSITIONAL ISSUES ###
-UTI- Cefpoxodime, ___ for ___nding ___
-Stopped HCTZ for concern that it may be causing hypovolemia. 
-Increased lisinopril from 10 to 20mg daily.
-Please reassess blood pressure outpatient and adjust 
accordingly.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Multivitamins 1 TAB PO DAILY 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing, dyspnea 
3. lisinopril-hydrochlorothiazide ___ mg oral DAILY 
4. glimepiride 4 mg oral QAM 
5. glimepiride 2 mg oral QPM 
6. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
7. Allopurinol ___ mg PO DAILY 
8. Levothyroxine Sodium 88 mcg PO DAILY 
9. Felodipine 10 mg PO DAILY 
10. I-Vite Protect (vitamins  A,C,E-zinc-copper) ___ 
unit-mg-unit oral DAILY 
11. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing, dyspnea 
2. Allopurinol ___ mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Felodipine 10 mg PO DAILY 
5. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
6. Levothyroxine Sodium 88 mcg PO DAILY 
7. Multivitamins 1 TAB PO DAILY 
8. glimepiride 4 mg ORAL QAM 
9. glimepiride 2 mg ORAL QPM 
10. I-Vite Protect (vitamins  A,C,E-zinc-copper) ___ 
unit-mg-unit oral DAILY 
11. Lisinopril 20 mg PO DAILY 
RX *lisinopril 20 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*1
12. Cefpodoxime Proxetil 200 mg PO Q24H 
RX *cefpodoxime 200 mg 1 tablet(s) by mouth once a day Disp #*5 
Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY:
-Syncope
-Presyncope
-Urinary tract infection

SECONDARY:
-Type 2 diabetes
-Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ was a pleasure to take care of you at ___ 
___. You were admitted to the hospital for evaluation 
of dizziness and falls. Your blood tests were normal. Your 
cardiac monitoring was normal. An ultrasound of your heart was 
normal. You did have a urinary tract infection which was treated 
with oral antibiotics.

We have stopped your hydrochlorothiazide medication in case this 
caused you to have low blood pressure. We increased your 
lisinopril.

Please follow up with your regular physician after discharge.  
Please continue your oral antibiotics for the full course to 
treat your urinary tract infection.

Thank you.
 
Followup Instructions:
___